US05034417
A solution of 3-(2,4-difluorophenylthio)-4nitrobenzoyl chloride (1 g) in tetrahydrofuran (3 ml) was added to a stirred solution of 70% ethylamine (0.5 ml) in water (5 ml) at 5° to 10° C. The mixture was stirred at the same temperature for 1 hour and at room temperature for 1 hour. Water (30 ml) was added to the reaction mixture. The precipitates were filtered, washed with water, and dried under reduced pressure to give a yellow powder of N-ethyl-3-(2,4-difluorophenylthio)-4-nitrobenzamide (0.94 g).

reactant | 3-(2,4-difluorophenylthio)-4nitrobenzoyl chloride | 1 g | FC1=C(C=CC(=C1)F)SC=1C=C(C(=O)Cl)C=CC1[N+](=O)[O-] | C13H6ClF2NO3S
reactant | ethylamine | 0.5 ml | C(C)N | C2H7N
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | water | 5 ml | O | H2O
solvent | Water | 30 ml | O | H2O
product | N-ethyl-3-(2,4-difluorophenylthio)-4-nitrobenzamide | 0.94 g | C(C)NC(C1=CC(=C(C=C1)[N+](=O)[O-])SC1=C(C=C(C=C1)F)F)=O | C15H12F2N2O3S
